US06194406B1
2-Methoxy-5-methylsulfonamidobenzoic Acid
Combine methyl 2-methoxy-5-methylsulfonamidobenzoate (1.0 g, 3.86 mmol) and lithium hydroxide (93 mg, 3.86 mmol) in tetrahydrofuran/water (50 mL/10 mL). After 18 hours, add lithium hydroxide (100 mg) and heat to reflux. After 1 hour, cool to ambient temperature and evaporate to remove most of the tetrahydrofuran. Dilute the evaporated reaction mixture with water (about 70 mL) and acidify to pH of about 1 using a 1 M aqueous hydrochloric acid solution. Evaporate to dryness and triturate with dichloromethane (200 mL). Filter and evaporate the filtrate to give the title compound: mp; 160-163° C.

reactant | methyl 2-methoxy-5-methylsulfonamidobenzoate | 3.86 mmol, 1.0 g | COC1=C(C(=O)OC)C=C(C=C1)NS(=O)(=O)C | C10H13NO5S
reactant | lithium hydroxide | 3.86 mmol, 93 mg | [OH-].[Li+]
reactant | lithium hydroxide | 100 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran water | 50 mL | O1CCCC1.O
product | 2-Methoxy-5-methylsulfonamidobenzoic Acid | COC1=C(C(=O)O)C=C(C=C1)NS(=O)(=O)C | C9H11NO5S
